US08076516B2
Reduction of 5-(3-(1-hydroxy-3-(2,2,2-trifluoro acetamido) propyl)phenyl)-N-methylpent-4-ynamide using EtOH as the solvent yielded 5-(3-(1-hydroxy-3-(2,2,2-trifluoro acetamido)propyl)phenyl)-N-methyl pentanamide as yellow oil. Yield (0.911 mg, 83%). 1H NMR (400 MHz, CDCl3) δ 8.0 (bs, 1H), 7.27 (t, J=7.2 Hz, 1H), 7.16 (s, 1H), 7.14 (d, J=7.6 Hz, 1H), 7.10 (d, J=7.6 Hz, 1H), 5.56 (bs, 1H), 4.83-4.86 (m, 1H), 3.54-3.60 (m, 1H), 3.37-3.44 (m, 1H), 2.76 (d, J=4.8 Hz, 3H), 2.63 (t, J=7.6 Hz, 2H), 2.12 (t, J=7.6 Hz, 2H), 1.96-2.0 (m, 2H), 1.58-1.67 (m, 4H).

reactant | 5-(3-(1-hydroxy-3-(2,2,2-trifluoro acetamido) propyl)phenyl)-N-methylpent-4-ynamide | OC(CCNC(C(F)(F)F)=O)C=1C=C(C=CC1)C#CCCC(=O)NC | C17H19F3N2O3
solvent | EtOH | CCO | C2H6O
product | 5-(3-(1-hydroxy-3-(2,2,2-trifluoro acetamido)propyl)phenyl)-N-methyl pentanamide | OC(CCNC(C(F)(F)F)=O)C=1C=C(C=CC1)CCCCC(=O)NC | C17H23F3N2O3
